US07902187B2
2-(6-chloro-1H-benzo[d]imidazol-1-yl)-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one.
To a vial containing crude 2-(2-amino-5-chlorophenylamino)-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one (0.015 mmol) was added anhydrous methanol (2.5 mL), followed by anhydrous trimethylorthoformate (0.5 mL) and p-toluene sulfonic acid (1 mg) and the reaction mixture was stirred under Ar at room temperature for 4 h (HPLC monitoring). Preparative HPLC purification, after evaporation of solvent and drying, provided the desired product (1.2 mg, 18% yield on two steps), as a yellow solid. TFA salt. 1H NMR (300 MHz, CD3OD) δ, ppm: 9.18 (s, 1H), 8.83 (br m, 2H), 8.71 (s, 1H), 8.07 (br m, 2H), 7.76 (d, J=8.6 Hz, 1H), 7.41 (d, J=8.9 Hz, 1H), 4.76-4.72 (m, 1H), 4.26-4.23 (m, 2H), 3.66 (app t, J=11.5 Hz, 2H), 2.90-2.87 (m, 2H), 1.91 (br d, J=12.8 Hz, 2H); MS (EI) m/z 448.3 (MH)+.

reactant | 2-(2-amino-5-chlorophenylamino)-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one | 0.015 mmol | NC1=C(C=C(C=C1)Cl)NC1=NC(=C2NC(N(C2=N1)C1CCOCC1)=O)C1=CC=NC=C1 | C21H20ClN7O2
reactant | trimethylorthoformate | 0.5 mL | COC(OC)OC | C4H10O3
reactant | p-toluene sulfonic acid | 1 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 2.5 mL | CO | CH4O
product | 2-(6-chloro-1H-benzo[d]imidazol-1-yl)-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-7H-purin-8(9H)-one | 1.2 mg, 18% yield | ClC=1C=CC2=C(N(C=N2)C2=NC(=C3NC(N(C3=N2)C2CCOCC2)=O)C2=CC=NC=C2)C1 | C22H18ClN7O2
